US05977178
Methyl-((1R)-1-(methyl-((1R)-1-methylcarbamoyl-2-phenylethyl)carbamoyl)-2-(1-naphthyl)ethyl)carbamic acid tert butyl ester (0.77 g; 1.52 mmol) was dissolved in methylene chloride (4 mL) and trifluoroacetic acid (4 mL) was added. The reaction mixture was stirred for 30 min at room temperature. Water (5 mL) and methylene chloride (5 mL) were added. An aqueous solution of sodium hydrogen carbonate was added until pH 8. The organic phase was extracted with methylene chloride (3×10 mL) and dried (magnesium sulfate). The solvent was removed in vacuo to afford 0.64 g of (2R)-N-methyl-2-methylamino-N-((1R)-1-methylcarbamoyl-2-phenylethyl)-3-(1-naphthyl)propionamide.

reactant | Methyl-((1R)-1-(methyl-((1R)-1-methylcarbamoyl-2-phenylethyl)carbamoyl)-2-(1-naphthyl)ethyl)carbamic acid tert butyl ester | 1.52 mmol, 0.77 g | C(C)(C)(C)OC(N([C@H](CC1=CC=CC2=CC=CC=C12)C(N([C@H](CC1=CC=CC=C1)C(NC)=O)C)=O)C)=O | C30H37N3O4
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 5 mL | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R)-N-methyl-2-methylamino-N-((1R)-1-methylcarbamoyl-2-phenylethyl)-3-(1-naphthyl)propionamide | 0.64 g | CN(C([C@@H](CC1=CC=CC2=CC=CC=C12)NC)=O)[C@H](CC1=CC=CC=C1)C(NC)=O | C25H29N3O2
